US08486950B2
2,6-dichloro-N-(2-(pyrimidin-2-ylamino)pyridin-4-yl)benzamide
To a microwave tube were added N-(2-bromopyridin-4-yl)-2,6-dichlorobenzamide (0.120 g, 0.347 mmol), 2-aminopyrimidine (0.040 g, 0.42 mmol), Pd2(dba)3 (0.030 g, 0.035 mmol), XantPhos (0.040 g, 0.070 mmol), Cs2CO3 (0.23 g, 0.70 mmol) and dioxane (2 mL). The mixture was degassed with N2 for 5 min. The resulting mixture was irradiated in a microwave reactor at 140° C. for 50 min and then cooled to room temperature. The mixture was filtered through Celite and concentrated under reduced pressure. The residue was dissolved in DMF and purified by prep-HPLC (Gilson GX 281, Shim-pack PRC-ODS 250 mm×20 mm×2, gradient: CH3CN/10 mm/L NH4HCO3, 17 min) to give the desired product as a white solid (15 mg, 12% yield). 1H NMR (500 MHz, MeOH-d4): δ 8.72 (s, 1H), 8.56 (d, J=4.5 Hz, 2H), 8.21 (d, J=5.5 Hz, 2H), 7.53-7.45 (m, 4H), 6.95 (t, J=5.0 Hz, 1H). LCMS (ESI) m/z: 360.0 [M+H+].

reactant | N-(2-bromopyridin-4-yl)-2,6-dichlorobenzamide | 0.347 mmol, 0.120 g | BrC1=NC=CC(=C1)NC(C1=C(C=CC=C1Cl)Cl)=O | C12H7BrCl2N2O
reactant | 2-aminopyrimidine | 0.42 mmol, 0.040 g | NC1=NC=CC=N1 | C4H5N3
reactant | XantPhos | 0.070 mmol, 0.040 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | Cs2CO3 | 0.70 mmol, 0.23 g | C(=O)([O-])[O-].[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 0.035 mmol, 0.030 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 2,6-dichloro-N-(2-(pyrimidin-2-ylamino)pyridin-4-yl)benzamide | 15 mg, 12% yield | ClC1=C(C(=O)NC2=CC(=NC=C2)NC2=NC=CC=N2)C(=CC=C1)Cl | C16H11Cl2N5O
